US06858638B2
N-[3-(4-Chlorophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide can be obtained in the following way: a solution of 0.515 g 2-methylsulfonylbenzenesulfonyl chloride in 3 ml of tetrahydrofuran is added dropwise to a solution, cooled to 0° C., of 0.45 g of 5-amino-3-(4-chlorophenyl)-1H-indazole, of 15 ml of tetrahydrofuran and of 0.165 ml of pyridine. After reacting for 30 minutes at a temperature in the region of 0° C. and 2 hours at a temperature in the region of 20° C., 50 ml of distilled water are added to the reaction medium. The medium is extracted with 30 ml of ethyl acetate. The organic phase is then washed with 3 times 20 ml of distilled water and the aqueous phase is extracted again with 30 ml of ethyl acetate. The organic phases are pooled, dried over magnesium sulfate, filtered and concentrated to dryness by evaporation under reduced pressure. The residue thus obtained is purified by chromatography on a silica column with a dichloromethane/ethyl acetate (99/1 by volume) mixture as eluent. 0.79 g of N-[3-(4-chlorophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide is thus obtained in the form of a white powder melting at 242° C. (analysis C20H16ClN3O4S2.0.65CH3OH % calculated C, 52.01; H, 3.49; Cl, 7.67; N, 9.10; O, 13.85; S, 13.88. % found C, 52.02; H, 3.78; Cl, 7.91; N, 9.21; S, 13.45).

reactant | 2-methylsulfonylbenzenesulfonyl chloride | 0.515 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
reactant | 5-amino-3-(4-chlorophenyl)-1H-indazole | 0.45 g | NC=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)Cl | C13H10ClN3
reactant | pyridine | 0.165 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-[3-(4-chlorophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide | 0.79 g | ClC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C20H16ClN3O4S2
